US04322553
Ten (10.0) g of 2',6'-diethyl-N-(methoxymethyl)-2-chloroacetanilide (common name "alachlor") when refluxed with 60 ml of SOCl2 for periods from 12-24 hours gave little evidence of the formation of 2',6'-diethyl-N-(chloromethyl)-2-chloroacetanilide ("CMA"), the desired product.

reactant | 2',6'-diethyl-N-(methoxymethyl)-2-chloroacetanilide | C(C)C1=C(N(C(CCl)=O)COC)C(=CC=C1)CC | C14H20ClNO2
reactant | SOCl2 | 60 ml | O=S(Cl)Cl | Cl2OS
product | 2',6'-diethyl-N-(chloromethyl)-2-chloroacetanilide | C(C)C1=C(N(C(CCl)=O)CCl)C(=CC=C1)CC | C13H17Cl2NO
